US04921852
To (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-thiocarbamoylpyrrolidine (1.5 g) was added N,N-dimethylformamide dimethylacetal (1.5 ml) and the mixture was stirred at room temperature for 1.5 hours. After the solvent was removed, the residue was dissolved in dichloromethane (30 ml). To the solution was added dropwise O-(mesitylenesulfonyl)hydroxylamine (1.5 g) in dichloromethane (20 ml) at 0° C. After stirring at room temperature for 2 hours, the mixture was washed with saturated aqueous sodium bicarbonate and brine successively. The dried organic layer was evaporated and the residue was subjected to a column chromatography on silica gel (30 g) eluting with a mixture of n-hexane and ethyl acetate (1:2 V/V) to give (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(1,2,4-thiadiazol-5-yl)pyrrolidine (850 mg).

reactant | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-thiocarbamoylpyrrolidine | 1.5 g | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(N)=S | C14H17N3O7S2
reactant | N,N-dimethylformamide dimethylacetal | 1.5 ml | COC(N(C)C)OC | C5H13NO2
product | (2S,4R)-4-methanesulfonyloxy-1-(4-nitrobenzyloxycarbonyl)-2-(1,2,4-thiadiazol-5-yl)pyrrolidine | 850 mg | CS(=O)(=O)O[C@@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C1=NC=NS1 | C15H16N4O7S2
